US06818649B2
4-Chloro-8-methoxy-2,2-dimethyl-2H-chromene-6-carbaldehyde
366 mg of 4-bromo-6-[1,3]dioxolan-2-yl-8-methoxy-2,2-dimethyl-2H-chromene (1.07 mmol) was dissolved in 4 ml of abs. THF and treated at −78° (dry-ice bath) with 0.735 ml n-butyl lithium (1.6M, n-hexane, 1.1 eq.). 15 min. later, 0.114 ml of mesyl chloride (1.1 eq.) was added and the dry-ice bath replaced by an ice-bth. After 30 min. the reaction mixture was poured onto crushed ice/concentrated HCl and vigorously stirred to cleave the acetal. Twofold extraction with ether, washing with NaCl, drying over magnesium sulfate, and evaporation of the solvents left a crude product which was purified by flash chromatography (SiO2 with n-hexane/AcOEt=87/13) to yield 77 mg of the title compound as white crystals.

reactant | 4-bromo-6-[1,3]dioxolan-2-yl-8-methoxy-2,2-dimethyl-2H-chromene | 1.07 mmol, 366 mg | BrC1=CC(OC2=C(C=C(C=C12)C1OCCO1)OC)(C)C | C15H17BrO4
reactant | dry-ice | C(=O)=O | CO2
reactant | n-butyl lithium | 1.6M, 0.735 ml, 1.1 eq. | C(CCC)[Li]
reactant | mesyl chloride | 0.114 ml, 1.1 eq. | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | THF | C1CCOC1 | C4H8O
product | 4-Chloro-8-methoxy-2,2-dimethyl-2H-chromene-6-carbaldehyde | 77 mg | ClC1=CC(OC2=C(C=C(C=C12)C=O)OC)(C)C | C13H13ClO3
